US07645771B2
Triflic anhydride (1.53 g, 5.39 mmol) was added dropwise to a solution of methyl 5-amino-2-chlorobenzoate (2.0 g, 10.8 mmol) in dichloromethane (35 ml) at 0° C. while stirring under a nitrogen atmosphere. After warming to room temperature over 1 hour, the thick slurry was diluted with additional dichloromethane (200 ml) and washed with aqueous 1 N hydrochloric acid and then water. The dichloromethane layer was dried with MgSO4 and the volatiles were removed by spin evaporation in vacuo to give methyl 2-chloro-5-{[(trifluoromethyl)sulfonyl]amino}benzoate as a tan oil (1.7 g, 100%). 1H-NMR (400 MHz, DMSO-d6): δ 9.43 (s, 1H), 7.55-7.18 (m, 5H), 3.92-3.82 (m, 2H), 3.31-3.18 (m, 2H), 2.40-1.92 (m, 4H), and 1.38 (s, 9H). ES-LCMS m/z 317 (M+H).

reactant | Triflic anhydride | 5.39 mmol, 1.53 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | methyl 5-amino-2-chlorobenzoate | 10.8 mmol, 2.0 g | NC=1C=CC(=C(C(=O)OC)C1)Cl | C8H8ClNO2
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | methyl 2-chloro-5-{[(trifluoromethyl)sulfonyl]amino}benzoate | 1.7 g, 100% | ClC1=C(C(=O)OC)C=C(C=C1)NS(=O)(=O)C(F)(F)F | C9H7ClF3NO4S
